US04775674
N-Cycloheptyl-4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-N-methylbutanamide
This compound, m.p. 234.5°-236.5° C., was prepared analogous to Example 15 from 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid and N-methylcycloheptylamine.

reactant | 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid | CN1C(NC2=NC=3C=CC(=CC3C=C21)OCCCC(=O)O)=O | C15H15N3O4
reactant | N-methylcycloheptylamine | CNC1CCCCCC1 | C8H17N
product | N-Cycloheptyl-4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-N-methylbutanamide | C1(CCCCCC1)N(C(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3C)=O)=O)C | C23H30N4O3
